US07223788B2
tert-Butyl (R)-[1-(4-{[4-(4-chlorophenyl)piperidine-1-carbonyl]amino}-phenyl)pyrrolidin-3-yl]methylcarbamate
tert-Butyl (R)-[1-(4-aminophenyl)pyrrolidin-3-yl]methylcarbamate was reacted with carbonyldiimidazole and then with 4-(4-chlorophenyl)piperidine by method A. This resulted in the product with the molecular weight of 513.09 (C28H37ClN4O3); MS (ESI): 513 (M+H+).

reactant | tert-Butyl (R)-[1-(4-aminophenyl)pyrrolidin-3-yl]methylcarbamate | NC1=CC=C(C=C1)N1C[C@H](CC1)CNC(OC(C)(C)C)=O | C16H25N3O2
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(4-chlorophenyl)piperidine | ClC1=CC=C(C=C1)C1CCNCC1 | C11H14ClN
product | tert-Butyl (R)-[1-(4-{[4-(4-chlorophenyl)piperidine-1-carbonyl]amino}-phenyl)pyrrolidin-3-yl]methylcarbamate | ClC1=CC=C(C=C1)C1CCN(CC1)C(=O)NC1=CC=C(C=C1)N1C[C@H](CC1)CNC(OC(C)(C)C)=O | C28H37ClN4O3
